US08058276B2
Step 1.2*: 6-Triisopropylsilanyloxy-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide
In a dried vessel, 207 μl (1.66 mMol) 3-trifluoromethyl-aniline are dissolved in 28 ml toluene and cooled to 10° C. Then 2.5 ml Me3Al (2 M in toluene; 5.0 mMol) are added via syringe. After 1 h at rt, a solution of 602 mg (1.66 mMol) 6-triisopropylsilanyloxy-benzo[d]isoxazole-3-carboxylic acid ethyl ester in 6 ml THF is added and the reaction mixture stirred for 30 min in an oil bath at 110° C. The solution is cooled in ice and hydrolyzed with 70 ml of a sat. NH4Cl. After 15 min stirring, EtOAc and Celite are added. The mixture is filtered through Celite, the solid washed with EtOAc and water, the aq. phase separated from the filtrate and extracted with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated, yielding the title compound as an oil: MS: [M−1]=477; TLC(hexane/EtOAc 19:1): Rf=0.30.

reactant | 3-trifluoromethyl-aniline | 1.66 mMol, 207 μl | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | Me3Al | 5.0 mMol, 2 M, 2.5 ml | C[Al](C)C
reactant | 6-triisopropylsilanyloxy-benzo[d]isoxazole-3-carboxylic acid ethyl ester | 1.66 mMol, 602 mg | C(C)OC(=O)C1=NOC2=C1C=CC(=C2)O[Si](C(C)C)(C(C)C)C(C)C | C19H29NO4Si
reactant | NH4Cl | 70 ml | [NH4+].[Cl-]
solvent | toluene | 28 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Triisopropylsilanyloxy-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)C1=NOC2=C1C=CC(=C2)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C24H29F3N2O3Si
